US08283353B2
4′-{[4-(2,3-dimethyl-1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-4-fluorobiphenyl-2-carbonitrile
A mixture of 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-4-fluorobiphenyl-2-carbonitrile (1.1 g), 3N hydrochloric acid (30 mL) and tetrahydrofuran (30 mL) was stirred at 70° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in toluene (30 mL), 2,3-dimethylpropane-1,3-diol (0.2 g) and p-toluenesulfonic acid monohydrate (0.004 g) were added, and the mixture was subjected to an azeotropic dehydration reaction by stirring at 110° C. for 3 hr in a reaction vessel equipped with a Dean-stark trap. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (1.3 g, 100%).

reactant | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-4-fluorobiphenyl-2-carbonitrile | 1.1 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC(=CC2)F)C#N)CCC)N=C(N1)C | C31H32FN5O3
reactant | hydrochloric acid | 3N, 30 mL | Cl | ClH
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(2,3-dimethyl-1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-4-fluorobiphenyl-2-carbonitrile | 1.3 g, 100% | CC1OC2(OC1C)CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC(=CC2)F)C#N)CCC)N=C(N1)C | C33H36FN5O3
